US07598423B2
Synthesis of 1-(4-{4-[3-(2-amino-pyrimidin-4-yl)-benzyl]-benzyloxy}-3-chloro-2-hydroxy-phenyl)-ethanone
The title compound is prepared essentially as described in Example 92 using 4-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-phenyl]-pyrimidin-2-ylamine (327 mg, 1.15 mmol) and 1-[4-(4-bromomethyl-benzyloxy)-3-chloro-2-hydroxy-phenyl]-ethanone (400 mg, 1.08 mmol). The title compound is isolated (109 mg, 0.237 mmol) as a yellow solid: 1H NMR (DMSO-d6) δ 2.10 (s, 3H), 4.04 (s, 2H), 5.30 (s, 2H), 6.62 (m, 2H), 6.88 (d, 1H), 7.08 (m, 1H), 7.29 (m, 2H), 7.40 (m, 4H), 7.92 (m, 3H), 8.28 (d, 1H), 13.12 (s, 1H); MS (m/z): 458.2 (M−1).

reactant | 4-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-phenyl]-pyrimidin-2-ylamine | 1.15 mmol, 327 mg | CC1(COB(OC1)C=1C=C(C=CC1)C1=NC(=NC=C1)N)C | C15H18BN3O2
reactant | 1-[4-(4-bromomethyl-benzyloxy)-3-chloro-2-hydroxy-phenyl]-ethanone | 1.08 mmol, 400 mg | BrCC1=CC=C(COC2=C(C(=C(C=C2)C(C)=O)O)Cl)C=C1 | C16H14BrClO3
product | 1-(4-{4-[3-(2-amino-pyrimidin-4-yl)-benzyl]-benzyloxy}-3-chloro-2-hydroxy-phenyl)-ethanone | NC1=NC=CC(=N1)C=1C=C(CC2=CC=C(COC3=C(C(=C(C=C3)C(C)=O)O)Cl)C=C2)C=CC1 | C26H22ClN3O3
